* STAGE C: 3-cell beta-model thermistor chain -- the composition test.
* T = s * eml-chain(x), s=300; cells = v1 topology (real NPNs, behavioral
* linear glue, ideal MDAC weights as F/I sources).
*
*   cell A: exp off (u=-6), ln in = x            -> out_A = -ln(x)
*   cell B: exp off, ln in = a + gB*out_A        -> out_B = -ln(s*(1/T25+lnx/B))
*           a = s/T25 = 1.00642,  gB = -s/Bth = -0.087336  (s=300, Bth=3435)
*   cell C: exp in = out_B, ln in = 1            -> out_C = T/s
*
* Sign convention (established empirically on cell v1): value = -i(VOUT)/IUNIT.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param iunit=0.5u
.param nvt=26.9m

.subckt emlcell nu nva out vdd
* nu: exp-path summing node (value u = I(nu)/IUNIT); nva: ln-path node (v > 0)
IR1 vdd nb0 {iunit}
* ----------------------------------------------------------------------
* mult=8 ON THE X-CARD(S) BELOW IS INERT -- IT IS NOT A DEVICE MULTIPLIER.
* ngspice SILENTLY ignores `mult=` on a subcircuit call; only `m=` works.
* Measured 2026-08-16, one sky130_fd_pr__npn_05v5_W1p00L1p00 at Vc=1.0 /
* Vb=0.75, .op, collector current vs the un-annotated card:
*     mult=8 -> ratio 1.000000   (ignored, and with NO warning printed)
*     m=8    -> ratio 8.000000   (honoured)
* So every number ever produced in this tree was computed with 1x
* transdiodes, not 8x.
*
* DO NOT "FIX" THIS TO m=8.  The LAYOUT is 1x per transdiode too:
* char/emlcell_b_sim12.inc -- the netlist that LVS-matches the shipped
* layout/emlcell2.gds -- carries these same NPNs with no multiplier at
* all.  Simulation and silicon therefore AGREE today, and there is no bug
* to fix.  Changing mult= to m= here would CREATE an 8x sim/silicon
* mismatch that does not currently exist.  The annotation records an
* INTENT that reached neither the netlist nor the mask; if 8x is wanted,
* change the LAYOUT first and the netlist with it.
* ----------------------------------------------------------------------
XQR nb0 nb0 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
RU  nu 0 {nvt/iunit}
BU  nb2 0 V = {V(nb0) + V(nu)}
XQ2 nc2 nb2 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
VC2 vdd nc2 0
XQA nva 0 oa 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
EOA oa 0 VALUE = {max(min(-2e5*V(nva), 1.6), -1.6)}
IVR 0 nvb {iunit}
XQB nvb 0 ob 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
EOB ob 0 VALUE = {max(min(-2e5*V(nvb), 1.6), -1.6)}
FEXP out 0 VC2 1.0
GLN  out 0 VALUE = {iunit*(V(oa)-V(ob))/nvt}
VOUT out 0 0
.ends

VDD vdd 0 3.3

* ---- cell A ----
IX   0 a_nva 0.5u          ; swept: x*IUNIT
IUA  0 a_nu  {-6*iunit}    ; exp path off
XA a_nu a_nva a_out vdd emlcell

* ---- cell B ----  v_B = a + gB*out_A ; out_A = -i(v.xa.vout)/iunit
IALB 0 b_nva {1.00642*iunit}
FGB  0 b_nva v.xa.vout 0.087336     ; injects -gB*out_A... sign checked below
IUB  0 b_nu  {-6*iunit}
XB b_nu b_nva b_out vdd emlcell

* ---- cell C ----  u_C = out_B
FGC  c_nu 0 v.xb.vout 1.0
IALC 0 c_nva {1.0*iunit}
XC c_nu c_nva c_out vdd emlcell

.control
set filetype=ascii
* x = R/R25 from 0.145 (85C) to 24.8 (-40C); sweep IX = x*IUNIT
dc IX 0.0725u 12.4u 0.02u
wrdata chain_out.csv i(v.xc.vout) i(v.xa.vout) i(v.xb.vout)
echo CHAIN_DONE
.endc
.end
