* 5T OTA for EML cell log amps (sky130, 3.3V rail, 5V devices)
* PMOS input (CM ~1.2V), NMOS mirror load. Ideal 4uA tail for now
* (bias tree is a separate low-risk block).
* Characterized as unity buffer: out tied to inn, sweep inp.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.subckt ota5t inp inn out vdd
ITAIL vdd ntail 4u
XMP1 n1  inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
XMP2 out inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
XMN1 n1  n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN2 out n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
.ends

VDD vdd 0 3.3
VIN inp 0 1.2
XOTA inp out out vdd ota5t

.control
set filetype=ascii
dc VIN 0.2 2.8 0.005
wrdata ota_buffer.csv v(out)
* open-loop gain at CM=1.2: re-run as diff amp around balance point
echo OTA_DONE
.endc
.end
