* v3 static conformity: u-sweep and v_eff-sweep.
* Target: value = exp(u) - ln(v_eff/3);  u = -IU_IN/iu, v_eff = IV_IN/iu + 2.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD vdd 0 3.3
VRB vrefb 0 1.2
VE  ve 0 0.55
IUIN 0 nu 0
IVIN 0 nv 0.5u
XCELL nu nv out vdd vrefb ve emlcell
VOUT out 0 0.9
.include eml_cell_v3.inc

.control
set filetype=ascii
* u sweep at v_eff = 3 (ln term = 0): IVIN = (3-2)*0.5u = 0.5u
dc IUIN 1.5u -1.7u -0.02u
wrdata v3_usweep.csv i(VOUT)
destroy all
* v_eff sweep at u = 0: IVIN = (v_eff-2)*0.5u, v_eff 1..32
alter IUIN = 0
dc IVIN -0.5u 15u 0.05u
wrdata v3_vsweep.csv i(VOUT)
echo V3_DONE
.endc
.end
